US05977152
Trans-4-(trifluoromethoxy)cinnamaldehyde
570 mg (3.0 mmol) of 4-(trifluoromethoxy)benzaldehyde and 913 mg (3.0 mmol) of (triphenylphosphoranylidene)acetaldehyde were heated under reflux in 7.5 ml of toluene under nitrogen atmosphere for 1 hour and 45 minutes. The toluene was distilled off under reduced pressure and the thus obtained residue was purified over column chromatography using 20 g of silica gel. The fractions eluted with a mixed solvent of acetic acid-hexane (1:10) were collected to obtain 387 mg (yield: 60%) of the title compound as an oil.

reactant | 4-(trifluoromethoxy)benzaldehyde | 3.0 mmol, 570 mg | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | (triphenylphosphoranylidene)acetaldehyde | 3.0 mmol, 913 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
solvent | toluene | 7.5 ml | C1(=CC=CC=C1)C | C7H8
product | Trans-4-(trifluoromethoxy)cinnamaldehyde | 387 mg, yield: 60% | FC(OC1=CC=C(/C=C/C=O)C=C1)(F)F | C10H7F3O2
